US09428490B2
(Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.10 g, 1.0 eq.) and 3-(trifluoromethyl)azetidin-3-ol hydrochloride (0.055 g, 1.1 eq.) were dissolved in DCM (3.0 mL) The reaction mixture was cooled to −30° C. where T3P (0.3 mL, 1.5 eq.) and DIPEA (0.12 mL, 2.5 eq.) were added. The reaction mixture was stirred at −30° C. for 30 min. and diluted by DCM, washed with water. The combined organic layers were dried over sodium sulfate and distilled under reduce pressure (250° C., 20 mmHg) to obtain crude product. The crude product was purified by preparative TLC (70% ethyl acetate-Hexane) to yield to 0.020 g of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-1-(3-hydroxy-3-(trifluoromethyl)azetidin-1-yl)prop-2-en-1-one. (Yield: 14.8%). 1H NMR (400 MHz, MeOD) δ 9.20 (s, 1H), 8.65 (s, 2H), 8.09 (s, 1H), 7.40-7.43 (d, J=10 Hz, 1H), 5.95-5.93 (d, J=10.6 Hz, 1H), 4.42-4.43 (m, 2H), 4.33-4.05 (m, 2H); LCMS calcd for C17H11F9N4O2 [M+H]+474.3. Found: 475.14 Retention time: 2.872 min,

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.10 g, 1.0 eq. | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 3-(trifluoromethyl)azetidin-3-ol hydrochloride | 0.055 g, 1.1 eq. | Cl.FC(C1(CNC1)O)(F)F
reactant | T3P | 0.3 mL, 1.5 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.12 mL, 2.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-1-(3-hydroxy-3-(trifluoromethyl)azetidin-1-yl)prop-2-en-1-one | 0.020 g, Yield: 14.8% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CC(C1)(C(F)(F)F)O)(F)F | C17H11F9N4O2
